US04155913
0.7 g of 7-chloro-5-(o-chlorophenyl)-2-hydrazino-3H-thieno[2,3-e]-1,4-diazepine are introduced, with cooling at 15° C., into 15 ml of glacial acetic acid and a solution of 0.25 g of chloroacetyl chloride in 5 ml of glacial acetic acid is slowly added dropwise thereto. The mixture is then stirred for a further 2 hours, treated with 0.3 g of sodium acetate and stirred for 1 hour. The solution is poured on to ice-water, neutralized and shaken out with methylene chloride. After evaporation of the solvent, the residue is refluxed with 30 ml of absolute xylene for 1 hour. After evaporation of solvent, the residue is recrystallized from ethyl acetate containing active carbon to yield 2-chloro-9-chloromethyl-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 101°-103° C.

reactant | 7-chloro-5-(o-chlorophenyl)-2-hydrazino-3H-thieno[2,3-e]-1,4-diazepine | 0.7 g | ClC1=CC2=C(N=C(CN=C2C2=C(C=CC=C2)Cl)NN)S1 | C13H10Cl2N4S
reactant | chloroacetyl chloride | 0.25 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | 0.3 g | C(C)(=O)[O-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-9-chloromethyl-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)CCl)C3=C(C=CC=C3)Cl | C15H9Cl3N4S
